US04260612
To 800 ml of methanol 100.0 g. (0.348 mole) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 100 cm3 of aniline are added. The mixture is heated under stirring until a solution is obtained. The solution is cooled to room temperature and stirred for 2-3 days. The precipitated crystals are filtered and washed with methanol. 64.0 g. (61.4%) of 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid is obtained which melts at 172°-173° C. after recrystallization from methanol.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.348 mole | BrC1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C10H11BrN2O3
reactant | aniline | 100 cm3 | NC1=CC=CC=C1 | C6H7N
solvent | methanol | 800 ml, 100.0 g | CO | CH4O
product | 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 61.4% | C1(=CC=CC=C1)NC1=CCC(N2C1=NC=C(C2=O)C(=O)O)C | C16H15N3O3
